US05958914
To a suspension of methyl 2-(2-amino-5-fluorothiazol-4-yl)-2-(Z)-(hydroxyimino)acetate (1 g) in dichloromethane (20 ml) was added dropwise 1M borontrichloride solution in dichloromethane (22.8 ml) under ice-cooling with stirring, and the mixture was stirred for 3 hours at 50° C. to 10° C. The resulting solution was poured into a mixture of tetrahydrofuran (30 ml) and brine (15 ml), and adjusted to pH 3.0 with saturated aqueous sodium bicarbonate. The separated organic phase was dried with magnesium sulfate and evaporated in vacuo. The residue was subjected to a column chromatography on silica gel and eluted with a mixture of ethyl acetate and methanol (2:1). The fractions containing the object compound were combined and evaporated in vacuo to give 2-(2-amino-5-fluorothiazol-4-yl)-2-(Z)-(hydroxyimino)acetic acid (330.26 mg).

reactant | methyl 2-(2-amino-5-fluorothiazol-4-yl)-2-(Z)-(hydroxyimino)acetate | 1 g | NC=1SC(=C(N1)/C(/C(=O)OC)=N/O)F | C6H6FN3O3S
reactant | borontrichloride | 1M | B(Cl)(Cl)Cl | BCl3
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 22.8 ml | ClCCl | CH2Cl2
solvent | brine | 15 ml | [Cl-].[Na+].O
product | 2-(2-amino-5-fluorothiazol-4-yl)-2-(Z)-(hydroxyimino)acetic acid | 330.26 mg | NC=1SC(=C(N1)/C(/C(=O)O)=N/O)F | C5H4FN3O3S
